US05461067
D. N-(((4-Nitrophenyl)oxy)carbonyl)-L-valine Methyl Ester
A solution of 66.1 g (0.328 mol) of 4-nitrophenyl chloroformate in 1.2 liters of CH2Cl2 was cooled to 0° C. and treated with L-valine methyl ester hydrochloride. The resulting mixture was treated slowly, with stirring, with 68.9 ml (0.626 mol) of 4-methylmorpholine. The resulting solution was allowed to slowly warm to ambient temperature and was stirred overnight. After washing with 3 portions of 10% aqueous NaHCO3, the solution was dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica gel chromatography by eluting with chloroform to provide the desired compound.

reactant | 4-nitrophenyl chloroformate | 0.328 mol, 66.1 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | L-valine methyl ester hydrochloride | Cl.COC([C@@H](N)C(C)C)=O
reactant | 4-methylmorpholine | 0.626 mol, 68.9 ml | CN1CCOCC1 | C5H11NO
solvent | CH2Cl2 | 1.2 liters | C(Cl)Cl | CH2Cl2
product | N-(((4-Nitrophenyl)oxy)carbonyl)-L-valine Methyl Ester | COC([C@@H](NC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C(C)C)=O | C13H16N2O6
